### PR TITLE
Mathcomp master PseudoMetricNormedZmod

### LINKED ISSUE #382: uninteresting lemma?
https://github.com/math-comp/analysis/blob/8a8036faa787171d9c4773934fc2b9d1d5cf3b13/theories/nngnum.v#L179-L182

during the 2021-05-27 meeting it was said to backport it to MathComp
but since it can be proven as
```
under eq_filter do rewrite andbC.
by rewrite filter_predI.
```
I wonder whether we should not jut get rid of it.

### PR DESCRIPTION
**Pull request by mkerjean**
Further generalisations from normedModTypes to PseudoMetricNormedZmodTypes.

NB(rei): fixes #382 

TODO:
- [x] Several explicit arguments are needed with this PR. E.g : https://github.com/math-comp/analysis/blob/45e488f1059a6744fb538a104300033555eb0046/theories/derive.v#L789 Why ?
- [x] Update Changelog
- [x] Check that no new (post apr. 2019) lemmas are generalizable

### CODE REVIEW

**Comment by mkerjean** [comment]
Issue: Sometimes one needs to explicitly mention the pseudoMetricNormedZmodType on which lemmas are applied while it was not necessary with NormedModTypes. It also makes (at least) `derive.v` fail ([here](https://github.com/math-comp/analysis/blob/3085f787d0d16b08db4a151b711382de9fabe87e/theories/derive.v#L786) view locally_le_locally_norm can't be applied). What's missing ?

**Comment by mkerjean** [comment]
Issue: Some further generalizations should be possible but `lim` does not seem to work on `PseudoNormedZmodule`. See  [here](https://github.com/math-comp/analysis/blob/0eb77159595dc65f63f4e5ce955303eb74d88a14/theories/normedtype.v#L789).

File: theories/normedtype.v [hunk 1]
```diff
@@ -769,17 +776,22 @@ Qed.
 
 Lemma flim_unique {F} {FF : ProperFilter F} :
   is_prop [set x : V | F --> x].
-Proof. by move=> Fx Fy; rewrite -closeE; apply: flim_close. Qed.
+Proof. by move=> Fx Fy; rewrite -closeE; apply: (@flim_close _ V). Qed.
```
Comment (affeldt-aist) [inline theories/normedtype.v:779]: I observe that `apply: flim_close` concludes the proof provided `F` is declared as `F : set (set V)`. Also `flim_unique` is generalized at the level of topological spaces by PR #177 so that the problem should disappear after a rebase.

File: theories/normedtype.v [hunk 2]
```diff
@@ -769,17 +776,22 @@ Qed.
...
 
 Lemma locally_flim_unique (x y : V) : x --> y -> x = y.
-Proof. by rewrite -closeE; apply: flim_close. Qed.
+Proof. by rewrite -closeE; apply:  (@flim_close _ V). Qed.
```
Comment (affeldt-aist) [inline theories/normedtype.v:782]: Here also the problem should disappear with PR #177 that generalized `locally_flim_unique`.

File: theories/normedtype.v [hunk 3]
```diff
@@ -769,17 +776,22 @@ Qed.
...
+Section NormedModule_numFieldType.
+Variables (R : numFieldType) (V : normedModType R).
+  
+Lemma lim_id (x : V) : lim x = x. (*Why is this not working with pseudometricnormedzmod *)
 Proof. by symmetry; apply: locally_flim_unique; apply/cvg_ex; exists x. Qed.
 
 Lemma flim_lim {F} {FF : ProperFilter F} (l : V) :
   F --> l -> lim F = l.
-Proof. by move=> Fl; have Fcv := cvgP Fl; apply: (@flim_unique F). Qed.
+Proof. by move=> Fl; have Fcv := cvgP Fl; apply: (@flim_unique _ V F). Qed.
```
Comment (affeldt-aist) [inline theories/normedtype.v:794]: Here also the problem should disappear with PR #177 that generalized `flim_lim`.

File: theories/normedtype.v [hunk 4]
```diff
@@ -846,6 +858,21 @@ rewrite (subr_trans z) (le_trans (ler_norm_add _ _) _)// ltW //.
...
+  by exists `|p - r|.
+move=> [e egt0 pre_C]; apply: locally_le_locally_norm; exists e => // s re_s.
+apply: pre_C; apply: le_lt_trans (ler_dist_dist _ _) _.
+by rewrite opprB addrC -subr_trans distrC.
+Qed.
+
+
 Lemma normedModType_hausdorff (R : realFieldType) (V : normedModType R) :
   hausdorff V.
 Proof.
```
Comment (affeldt-aist) [inline theories/normedtype.v:878]: Naturally `Proof. exact: pseudoMetricNormedZModType_hausdorff. Qed.`

File: theories/normedtype.v (hunk 1 above)
Comment (mkerjean) [reply theories/normedtype.v:779]: Would that solve also the generalization to [Section NormedModule_numFieldType](https://github.com/math-comp/analysis/blob/0eb77159595dc65f63f4e5ce955303eb74d88a14/theories/normedtype.v#L786), mentioned previously ?

Comment (mkerjean) [reply theories/normedtype.v:779]: It seems rather related to PR #90.

**Comment by affeldt-aist** [comment]
This branch/PR has been rebased on PR #177 that lifts several lemmas about limits to the level of topological spaces, thus the issues about `flim_lim` and `flim_unique` have disappeared. But similar inference problems seem to occur later, e.g., here https://github.com/math-comp/analysis/blob/b8c628cb71191eeb9e5d600c0ea9c10dcedf2241/theories/derive.v#L786 .

**Comment by affeldt-aist** [comment]
There are still notation issues with lemmas [`norm_lim_id`](https://github.com/math-comp/analysis/blob/55b94bdc2d7ae32f61ff031ab9267ce9c2c63dbe/theories/normedtype.v#L1208) and [`norm_cvg_lim`](https://github.com/math-comp/analysis/blob/55b94bdc2d7ae32f61ff031ab9267ce9c2c63dbe/theories/normedtype.v#L1210).

There are still generalizations to do, at least about the lemmas related to the new `bounded_on` predicate, but also some generalizations for which I might have screwed up when rebasing. :-/

**Comment by affeldt-aist** [comment]
FYI, I rebased on top of a recent master (with PR #230) and at first sight the behavior seems unchanged, i.e.:
- in `normedtype.v`:
  + `norm_cvg_eq` -> still requires explicit type
  + `norm_lim_id` -> still requires `[lim ... in ...]` notation
  + `norm_cvg_lim` -> still requires explicit type and `[lim ... in ...]` notation
  + `continuous_cvg_dist` -> still requires explicit type
- in `derive.v`:
  + `bilinear_eqo` -> still requires explicit `[pseudoMetricNormedZmodType R of _]`
  + `dinv` -> still requires explicit `[pseudoMetricNormedZmodType R of _]`

**Comment by mkerjean** [comment]
> FYI, I rebased on top of a recent master (with PR #230) and at first sight the behavior seems unchanged, i.e.:
> 
>     * in `normedtype.v`:
>       
>       * `norm_cvg_eq` -> still requires explicit type
>       * `norm_lim_id` -> still requires `[lim ... in ...]` notation
>       * `norm_cvg_lim` -> still requires explicit type and `[lim ... in ...]` notation
>       * `continuous_cvg_dist` -> still requires explicit type
> 
>     * in `derive.v`:
>       
>       * `bilinear_eqo` -> still requires explicit `[pseudoMetricNormedZmodType R of _]`
>       * `dinv` -> still requires explicit `[pseudoMetricNormedZmodType R of _]`

In `normedtype.v`:
* explicit argument [l.1793](https://github.com/math-comp/analysis/blob/1c5946eec37e3ab923fb60de41b5f84e1f435a3a/theories/normedtype.v#L1793) explicit argument needed for `cvg_ball` (not needed in the case of `V : normedType R`).

**Comment by mkerjean** [comment]
There is still an admit in `derive.v`. We should understans why explicit argument are needed for `pseudoMetricNormedZmodType ` while they are not needed for `normedType`.

**Comment by affeldt-aist** [comment]
Does https://github.com/math-comp/analysis/pull/180/commits/06dcf7fddfb08b4832056da2f6db44ff0711e2fe
really fix the inference problem derive.v? Or does it just narrow it?

File: theories/normedtype.v [hunk 5]
```diff
@@ -1310,11 +1310,20 @@ Variables (R : numDomainType) (V : normedModType R).
 Lemma normmZ l (x : V) : `| l *: x | = `| l | * `| x |.
 Proof. by case: V x => V0 [a b [c]] //= v; rewrite c. Qed.
 
+End NormedModule_numDomainType.
+
+Section PseudoNormedZmod_numDomainType. (* to be lifted *)
```
Comment (affeldt-aist) [inline theories/normedtype.v:1315]: What does this comment mean?

File: theories/normedtype.v [hunk 6]
```diff
@@ -1591,17 +1601,17 @@ Hint Extern 0 (hausdorff _) => solve[apply: norm_hausdorff] : core.
...
+Lemma norm_closeE (x y : V): close x y = (x = y). Proof. exact: closeE. Qed.
+Lemma norm_close_eq (x y : V) : close x y -> x = y. Proof. exact: close_eq. Qed.
 
 Lemma norm_cvg_unique {F} {FF : ProperFilter F} : is_subset1 [set x : V | F --> x].
 Proof. exact: cvg_unique. Qed.
 
-Lemma norm_cvg_eq x y : x --> y -> x = y. Proof. exact: cvg_eq. Qed.
-Lemma norm_lim_id x : lim x = x. Proof. exact: lim_id. Qed.
+Lemma norm_cvg_eq (x y : V) : x --> y -> x = y. Proof. exact: (@cvg_eq V). Qed.
+Lemma norm_lim_id x : [lim x in V](*NB: was lim x*) = x. Proof. exact: lim_id. Qed.
```
Comment (affeldt-aist) [inline theories/normedtype.v:1611]: I guess this is now the main concern of this PR. This notation is properly documented, so this is acceptable to me as long as we keep the comment. @CohenCyril Is this acceptable for you too? Does the modification made to `nbhs_le_nbhs_norm` ring any bell by any chance?

**Review by affeldt-aist — CHANGES_REQUESTED** [review]
Improve one comment and confirm the notation use with another reviewer (see the conversation).

File: theories/normedtype.v (hunk 5 above)
Comment (mkerjean) [reply theories/normedtype.v:1315]: No idea ... I guess it can be deleted.

**Review by affeldt-aist — APPROVED** [review]
ok with me but I am biased

File: theories/normedtype.v [hunk 7]
```diff
@@ -1651,6 +1661,27 @@ move=> cv; apply/cvg_distP => _/posnumP[e]; near=> x.
...
 Grab Existential Variables. all: end_near. Qed.
 
+End PseudoNormedZMod_numFieldType.
+
+Section NormedModule_numFieldType.
+Variables (R : numFieldType) (V : normedModType R).
+
+Lemma cvg_bounded_real {F : set (set V)} {FF : Filter F} (y : V) :
+  F --> y ->
+  \forall M \near +oo, M \is Num.real /\ \forall y' \near F, `|y'| < M.
```
Comment (CohenCyril) [inline theories/normedtype.v:1671]:
```suggestion
  \forall M \near +oo, \forall y' \near F, `|y'| < M.
```
Indeed `\forall M \near +oo, M \is Num.real` is always true and could be added after `nbhs_pinfty_ge` and proved using it.

File: theories/normedtype.v [hunk 8]
```diff
@@ -1691,13 +1739,14 @@ Ltac near_simpl := rewrite ?near_simpl.
...
 Lemma continuous_cvg_dist {R : numFieldType}
-  (V W : normedModType R) (f : V -> W) x l :
+  (V W : pseudoMetricNormedZmodType R) (f : V -> W) x l :
   continuous f -> x --> l -> forall e : {posnum R}, `|f l - f x| < e%:num.
 Proof.
-move=> + + e => /(_ l)/cvg_dist/(_ _ (posnum_gt0 e)).
+ move=> + + e => /(_ l)/cvg_dist/(_ _ (posnum_gt0 e)).
 rewrite near_map => /nbhs_ballP[_/posnumP[a]] + xl; apply.
-move/cvg_ball : xl => /(_ _ a)/nbhs_ballP[_/posnumP[b]]; apply; exact: ballxx.
+move/(cvg_ball (y := l)): xl=> /(_ _ a)/nbhs_ballP[_/posnumP[b]]; apply; exact: ballxx.
```
Comment (CohenCyril) [inline theories/normedtype.v:1747]: do not use the `_ := _` syntax, it is too unstable.

**Review by CohenCyril — CHANGES_REQUESTED** [review]
Ready to merge after my comments have been taken into account.
Also, I would rather have TODO/NBs turned into issues, they are less prone to bitrot.

File: theories/normedtype.v (hunk 8 above)
Comment (affeldt-aist) [reply theories/normedtype.v]: It looks like this actually revealed a wrong definition: https://github.com/math-comp/analysis/pull/180/commits/13e50e4d44025ed09686f97ea1f2bb0286ad15d8

**Comment by affeldt-aist** [comment]
> Ready to merge after my comments have been taken into account.
> Also, I would rather have TODO/NBs turned into issues, they are less prone to bitrot.

NBs that were marking issues caused by this PR has been resolved (I think).
There are still TODOs but I think that they predates this PR.
Ok to merge and chase TODOs later?

File: theories/normedtype.v (hunk 6 above)
Comment (affeldt-aist) [reply theories/normedtype.v]: solved by https://github.com/math-comp/analysis/pull/180/commits/8443585e56a0cfcb0173b9ff4ea32681b66c4ecc actually...

**Review by CohenCyril — APPROVED** [review]
